US05236912
(a) 11β-Fluoro-3-methoxyandrosta-3,5-diene-17-one
10.0 g of 11β-fluoroandrost-4-ene-3,17-dione [U.S. Pat. No. 3,966,713 (1976)] is stirred under reflux with 60 ml of dimethoxypropane and 1.0 g of pyridinium-4-toluenesulfonate. After 8 hours, 1 ml of pyridine is added, the mixture is diluted with ethyl acetate, washed neutral with water, and dried. The crude product is chromatographed on silica gel with an acetone-hexane gradient. Yield: 7.8 g of 11β-fluoro-3-methoxyandrosta-3,5-diene-17-one as a foam.

reactant | 11β-fluoroandrost-4-ene-3,17-dione | 10.0 g | F[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O)C | C19H25FO2
reactant | dimethoxypropane | 60 ml | COC(C)(C)OC | C5H12O2
reactant | pyridinium 4-toluenesulfonate | 1.0 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-Fluoro-3-methoxyandrosta-3,5-diene-17-one | F[C@@H]1[C@@H]2[C@]3(CCC(=CC3=CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)OC)C | C20H27FO2
